US06828116B1
iii) 1-(5-Carboxypentyl)-5-sulpho-2,3,3-trimethylindolium bromide
To 5-sulpho-2,3,3-trimethylindole (potassium salt) (5.0 g, 18 mmol) was added 6-bromohexanoic acid (10.56 g, 53.8 mmol) in 1,2-propanediol (15 ml) and heated at 80° C. for 72 hours. The mixture was cooled and diluted with water (60 ml) and a solution of NaOH (10% in water, 60 ml) with stirring. The product was purified using preparative HPLC (Dynamax, C18 column, gradient of TFA/H2O to TFA/MeCN) to yield a grey/pink solid (2.4 g, 28%).

reactant | 5-sulpho-2,3,3-trimethylindole | 18 mmol, 5.0 g | S(=O)(=O)(O)C=1C=C2C(C(=NC2=CC1)C)(C)C | C11H13NO3S
reactant | 6-bromohexanoic acid | 53.8 mmol, 10.56 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | NaOH | 60 ml | [OH-].[Na+]
solvent | 1,2-propanediol | 15 ml | C(C(C)O)O | C3H8O2
solvent | water | 60 ml | O | H2O
product | 1-(5-Carboxypentyl)-5-sulpho-2,3,3-trimethylindolium bromide | 2.4 g, 28% | [Br-].C(=O)(O)CCCCC[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)O)(C)C)C | InChI=1S/C17H23NO5S.BrH/c1-12-17(2,3)14-11-13(24(21,22)23)8-9-15(14)18(12)10-6-4-5-7-16(19)20;/h8-9,11H,4-7,10H2,1-3H3,(H-,19,20,21,22,23);1H
